US07256178B2
(2) (8E,12E,14E)-3,16,21-tris(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
(8E,12E,14E)-7-acetoxy-3,16,21-tris(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (186 mg) as the crude product was dissolved in methanol (2 mL). Potassium carbonate (75.0 mg, 543 μmol) was added to the reaction mixture, and the reaction mixture was stirred at room temperature for three hours. This reaction solution was diluted with ethyl acetate (50 mL), and the organic layer was washed with brine (10 mL) twice. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The resulting concentrate was purified by silica gel column chromatography (Merck Silica gel 60, 63 to 200 μm; hexane:ethyl acetate=3:1->2:1) to obtain the title compound (131 mg, 185 μmol, 78.6%, 2 steps) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-3,16,21-tris(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 186 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C)OC(C)OCC)C | C42H72O11
reactant | Potassium carbonate | 543 μmol, 75.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-3,16,21-tris(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 185 μmol, 131 mg, 78.6% | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)C)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C | C40H70O10
